Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is an ___
year old male with a history ___ body dementia, HTN,
hyperlidemia, history of prostate cancer and melanoma who
presents following a fall found to have an elevated troponin.

Patient is a resident at ___. He was noted
to have 3 falls in the last 2 days prompting transfer to ___. The first fall happened in the setting of using the
restroom and reportedly his knees buckled. He previously a
possible head strike in the setting of falls and right knee pain
following.

At ___ head was negative for acute intracranial
process or fracture seen. CT of the C spine also was without
fracture or traumatic injury. He denies any chest pain however
troponin was checked while at ___ (Troponin I) which
increased from 0.015 to 0.023 and patient transferred to ___
for cardiac evaluation. 

In the ED
- Initial vitals: T98.3 HR78 BP157/95 97% RA
- EKG: Sinus rhythm, no ST changes appreciated
- Labs/studies notable for: 
Hemolyzed specimen:
Na 140 K 5.7, Cl 104, BUN 19 Sr Cr 0.9
Troponin 0.03, MB 4
CBC: WBC 9.3 Hgb 12.7 Plt 237
INR 1.1
- Patient was given: No medications administered
- Vitals on transfer: T98.3 HR80 BP154/84 98% RA

On the floor, Mr. ___ is able to provide limited history.
He was unable to recount recent falls and denies any current 
knee
or chest pain. The remaining history was obtained via his
daughter ___ and his caregiver. In discussion with his
daughter ___, he has baseline aphasia and is at times
difficult to understand. He has difficult with memory recall and
difficulty dissociating dreams from reality. She was not with 
him
during recent falls but notes that falls have been an
intermittent issue over the past few months and that orthostatic
hypotension was one of the presenting symptoms for his dementia
diagnosis. 

 
Past Medical History:
1. CARDIAC RISK FACTORS
- Hypertension
- Dyslipidemia

2. CARDIAC HISTORY
- CABG: None
- PERCUTANEOUS CORONARY INTERVENTIONS: None
- PACING/ICD: None

3. OTHER PAST MEDICAL HISTORY
Obesity 
Hernia, inguinal 
History of herniorrhaphy 
Hypertension, essential 
Hypercholesterolemia 
Keratosis, actinic 
Cancer of prostate 
Mitral valve prolapse 
MELANOMA - TRUNK, .4mm, level II., ___ 
___ (squamous cell carcinoma), scalp/neck 
Health Care Proxy 
___ positional vertigo 
Parkinsonism 
Dementia with ___ bodies
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
===============================
GENERAL: NAD, only oriented to self
HEENT: AT/NC, anicteric sclera, MMM
NECK: no JVD 
CV: RRR, no murmurs or gallops
PULM: CTAB
GI: abdomen soft, nondistended, nontender
EXTREMITIES: no cyanosis, clubbing, or edema. No bruising or
edema at right knee, full ROM on exam
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAMINATION:
===============================
24 HR Data (last updated ___ @ 1201)
    Temp: 98 (Tm 98.3), BP: 112/76 (112-162/76-89), HR: 82
(79-82), RR: 18 (___), O2 sat: 98% (96-100), O2 delivery: RA,
Wt: 185.85 lb/84.3 kg  
Fluid Balance (last updated ___ @ 1202) 
  Last 8 hours  Total cumulative 340ml
    IN: Total 340ml, PO Amt 340ml
    OUT:  Total 0ml, Urine Amt 0ml
  Last 24 hours  Total cumulative 340ml
    IN: Total 340ml, PO Amt 340ml
    OUT:  Total 0ml, Urine Amt 0ml  
GENERAL: Lying in bed in no apparent distress confabulated 
speech
HEENT: PERRLA, MMM
NECK: no JVD 
CV: RRR, no murmurs or gallops
PULM: CTAB
GI: abdomen soft, nondistended, nontender
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes
 
Pertinent Results:
ADMISSION LABS:
===============
___ 05:49AM   GLUCOSE-96 UREA N-18 CREAT-0.9 SODIUM-143 
POTASSIUM-4.3 CHLORIDE-107 TOTAL CO2-27 ANION GAP-9*
___ 05:49AM   CK-MB-4 cTropnT-0.03*
___ 05:49AM   CALCIUM-9.3 PHOSPHATE-2.8 MAGNESIUM-2.0
___ 05:49AM   WBC-8.3 RBC-3.84* HGB-11.7* HCT-36.4* MCV-95 
MCH-30.5 MCHC-32.1 RDW-13.1 RDWSD-45.0
___ 05:49AM   PLT COUNT-216
___ 05:49AM   ___ PTT-29.3 ___
___ 04:00AM   K+-4.7
___ 01:58AM   GLUCOSE-98 UREA N-19 CREAT-0.9 SODIUM-140 
POTASSIUM-5.7* CHLORIDE-104 TOTAL CO2-25 ANION GAP-11
___ 01:58AM   CK(CPK)-200
___ 01:58AM   cTropnT-0.03*
___ 01:58AM   CK-MB-4
___ 01:58AM   WBC-9.3 RBC-4.21* HGB-12.7* HCT-40.5 MCV-96 
MCH-30.2 MCHC-31.4* RDW-13.1 RDWSD-46.1
___ 01:58AM   NEUTS-63.7 ___ MONOS-8.2 EOS-1.1 
BASOS-0.4 IM ___ AbsNeut-5.94 AbsLymp-2.46 AbsMono-0.77 
AbsEos-0.10 AbsBaso-0.04
___ 01:58AM   PLT COUNT-237
___ 01:58AM   ___ PTT-28.0 ___

STUDIES:
========
EKG: Sinus rhythm, left axis deviation, no acute ST changes.
Early R wave progression. 

DISCHARGE LABS:
===============
___ 05:49AM BLOOD WBC-8.3 RBC-3.84* Hgb-11.7* Hct-36.4* 
MCV-95 MCH-30.5 MCHC-32.1 RDW-13.1 RDWSD-45.0 Plt ___
___ 05:49AM BLOOD Plt ___
___ 05:49AM BLOOD ___ PTT-29.3 ___
___ 05:49AM BLOOD Glucose-96 UreaN-18 Creat-0.9 Na-143 
K-4.3 Cl-107 HCO3-27 AnGap-9*
___ 05:49AM BLOOD CK-MB-4 cTropnT-0.03*
 
Brief Hospital Course:
TRANSITIONAL ISSUES
====================
[] Patient exhibiting signs of worsening of his ___ Body 
Dementia. Patient may benefit from transfer of care to assisted 
living. 

SUMMARY STATEMENT
=================
Mr. ___ is an ___ year old male with a history ___ 
body dementia, HTN, hyperlidemia, history of prostate cancer and 
melanoma who presents following a fall found to have an elevated 
troponin. Troponins plateaued, and EKG was without ischemic 
changes. The patient was discharged back to ___ on the 
___ with home ___. He was encouraged to follow-up with 
his neurologist.

# ___: 
Troponin elevation likely secondary to cardiac stress in the 
setting of recent traumatic falls leading to demand ischemia. 
EKG without significant ST changes. Troponins stabilized at 
0.03. Patient received aspirin load. Metoprolol and a statin 
were deferred given the patient's other comorbidities. 

# Recurrent Falls: 
Notably 3 falls prior to admission, no evidence of trauma on OSH 
CT head or CT neck. Regarding etiology, first event happened in 
the setting of micturition and standing hich raises the 
possibility of a vasovagal event which is further compounded by 
likely underlying autonomic dysfunction from ___ Body dementia. 
Additionally gait instability a common feature ___ Body 
dementia and in review of ___ records has had issues with 
falls dating back to ___. Patient was discharged with 
home ___ Therapy.

# ___ Body Dementia: 
Follows with Dr. ___ through ___. Held 
Rivastigmine patch as it was non-formulary. 

# Nutritional Supplements: 
Continued MVI.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. rivastigmine 13.3 mg/24 hour transdermal daily 
3. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Multivitamins 1 TAB PO DAILY  
3.  rivastigmine 13.3 mg/24 hour transdermal daily  
4.Outpatient Physical Therapy
Diagnosis: ___ Body Dementia, ICD 10: G31.83. Gait instability, 
ICD 10: R26.89. Please evaluate and treat. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Type 2 ___ Body Dementia
HTN
HL

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ ___ 
___. 

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were transferred here from ___ because you 
had an elevated cardiac enzyme in your blood. 

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- We continued to monitor the cardiac enzyme, and it was stable. 
We looked at your EKG, and it did not show any evidence of 
problems with your heart. 

WHAT SHOULD I DO WHEN I GO HOME?
- You should continue to take your medications as prescribed. 

We wish you the best!
Your ___ Care Team 

 
Followup Instructions:
___